US05211738
(2) Synthesis of N6 -[2-(N-methoxyimino)ethyl]adenine (compound A)
0.290 g (1.33 mmol) of N-[(2-(N-methoxyimino)ethyl]phthalimide was dissolved in 8 ml of ethanol and to the solution was added 77.7 μl (1.60 mmol) of hydrazine hydrate, followed by being refluxed for 5 hours. The reaction mixture was cooled to room temperature and then, 15 ml of ether was added thereto and the mixture was left to stand at 0° C. for 1 hour to sufficiently precipitate solids. The solids were removed by suction filtration and the filtrate was dried over sodium sulfate and concentrated to 1 ml by an avaporator. This concentrated filtrate was dissolved in 5 ml of isopropanol and to the solution were added 77.7 mg (0.503 mmol) of 6-chloropurine and 88 μl of ethyldiisopropylamine, followed by being refluxed with heating on an oil bath for 5 hours. The precipitated crystals were collected by filtration and thereafter, were purified by a thin layer chromatography (silica gel, developing agent: 10% ethanolchloroform) to give 5.2 mg (yield 2%) of the titled compound as a white powder.

reactant | (2-(N-methoxyimino)ethyl]phthalimide | CON=CCC1=C2C(C(=O)NC2=O)=CC=C1 | C11H10N2O3
reactant | hydrazine hydrate | 1.60 mmol, 77.7 μl | O.NN
reactant | 6-chloropurine | 0.503 mmol, 77.7 mg | ClC1=C2NC=NC2=NC=N1 | C5H3ClN4
reactant | ethyldiisopropylamine | 88 μl | C(C)N(C(C)C)C(C)C | C8H19N
solvent | ethanol | 8 ml | C(C)O | C2H6O
solvent | ether | 15 ml | CCOCC | C4H10O
product | N6 -[2-(N-methoxyimino)ethyl]adenine | 5.2 mg, yield 2% | CON=CCNC1=C2NC=NC2=NC=N1 | C8H10N6O
